US07390904B2
1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol
A mixture of 5.21 g (33.1 mmol) of 2,2,6,6-tetramethylpiperidin-4-ol, 0.015 g (0.142 mmol) of anhydrous sodium carbonate, 15 ml of water, and 15 ml of acetonitrile is heated to 56° C. A solution of 6.5 g (96 mmol) of 50% aqueous hydrogen peroxide is added to the reaction mixture over 1.5 hours while the temperature is brought to and maintained at 80° C. After the peroxide is added, the reaction mixture is heated at 80° C. for 3 hours, then cooled slowly to 50° C. over 1.75 hours. The mixture is kept at ambient temperature overnight. A solution of 0.184 g (0.662 mmol) of ferrous sulfate heptahydrate and 0.664 g (3.6 mmol) of 48% tetrafluoroboric acid in 2 ml of water is added to the reaction mixture, followed by 30 ml of cyclohexane and 24 ml of acetonitrile. The reaction mixture is heated to 50° C. A solution of 8.7 g (128 mmol) of 50% aqueous peroxide is added to the reaction mixture dropwise over 4.5 hours while the temperature is brought to and maintained at 62° C. After the peroxide is added, the reaction mixture is stirred at reflux for 1 hour. Upon cooling, residual peroxide is decomposed by the addition of aqueous sodium sulfite solution. Work-up with ethyl acetate and purification by flash chromatography afford 2.03 g (24% overall yield) of a white solid. GC analysis shows that the reaction product has a retention time identical to that of an authentic sample of the title compound.

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | 33.1 mmol, 5.21 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | sodium carbonate | 0.142 mmol, 0.015 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 96 mmol, 6.5 g | OO | H2O2
reactant | tetrafluoroboric acid | 3.6 mmol, 0.664 g | F[B-](F)(F)F.[H+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 2 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | acetonitrile | 24 ml | C(C)#N | C2H3N
solvent | cyclohexane | 30 ml | C1CCCCC1 | C6H12
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
